US07288537B2
1-{(S)-3-[3-(4 chloro-3-methyl-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclo-propyl-2-methyl-2H-pyrazol-3-yl)-urea—Example 172
This compound is prepared analogously to 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclopropyl-2-methyl-2H-pyrazol-3-yl)-urea in Example 83 except using (S)-2-amino-4-[3-(4-chloro-3-methyl-phenoxy)-azetidin-1-yl]-butan-1-ol in place of (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol.

reactant | 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclopropyl-2-methyl-2H-pyrazol-3-yl)-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC=2N(N=C(C2)C2CC2)C)C=C1 | C21H28ClN5O3
reactant | (S)-2-amino-4-[3-(4-chloro-3-methyl-phenoxy)-azetidin-1-yl]-butan-1-ol | N[C@H](CO)CCN1CC(C1)OC1=CC(=C(C=C1)Cl)C | C14H21ClN2O2
product | 1-{(S)-3-[3-(4 chloro-3-methyl-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclo-propyl-2-methyl-2H-pyrazol-3-yl)-urea | ClC1=C(C=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC=2N(N=C(C2)C2CC2)C)C=C1)C | C22H30ClN5O3
